US06423699B1
A mixture of 2-amino-5-bromo-benzenethiol (20 g, 0.1 mol), ethyl bromoacetate (19 g, 0.1 mol), and sodium bicarbonate (8.8 g, 0.1 mol) in DMF (200 ml) was heated to reflux for 2 hours. The mixture was diluted with water and extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with water, then brine, dried (MgSO4) and evaporated to obtain the crude 7-bromo-4H-benzo[1,4]thiazin-3-one (20 g, 82%). A small portion of sample was recrystallized from ethanol to afford pure 7-bromo-4H-benzo[1,4]thiazin-3-one: mp 212-213° C.; MS (EI) m/z 243/245 (M+).

reactant | 2-amino-5-bromo-benzenethiol | 0.1 mol, 20 g | NC1=C(C=C(C=C1)Br)S | C6H6BrNS
reactant | ethyl bromoacetate | 0.1 mol, 19 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium bicarbonate | 0.1 mol, 8.8 g | C([O-])(O)=O.[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-bromo-4H-benzo[1,4]thiazin-3-one | 20 g, 82% | BrC1=CC2=C(NC(CS2)=O)C=C1 | C8H6BrNOS
